US06087368
7-Chloro-1,4-dihydro-6-nitro-2H-3,1-benzoxazine-2,4-dione (6.5 g, 26.8 mmol) was suspended in glacial acetic acid (70 mL). Ammonium acetate (6.2 g, 80.6 mmol) was added, and the resulting mixture was heated to 100° C. with stirring for 3 hours. After cooling to room temperature, the brown solution was poured into distilled water (200 mL) to precipitate a yellow solid which was collected by filtration and washed well with water and ether. This material was first air dried, then dried overnight under high vacuum to provide 2-amino-4-chloro-5-nitrobenzamide (4.9 g, 23.0 mmol, 86%): 1H NMR (DMSO-d6): δ 6.92 (s, 1H), 7.49 (br s, 1H), 7.89 (br s, 2H), 8.22 (br s, 1H), 8.53 (s, 1H).

reactant | 7-Chloro-1,4-dihydro-6-nitro-2H-3,1-benzoxazine-2,4-dione | 26.8 mmol, 6.5 g | ClC1=CC2=C(C(OC(N2)=O)=O)C=C1[N+](=O)[O-] | C8H3ClN2O5
reactant | Ammonium acetate | 80.6 mmol, 6.2 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 2-amino-4-chloro-5-nitrobenzamide | 23.0 mmol, 4.9 g, 86% | NC1=C(C(=O)N)C=C(C(=C1)Cl)[N+](=O)[O-] | C7H6ClN3O3
